US08110581B2
Step 3. 2-(4-methylpyridin-3-yl)-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one
A mixture of ethyl 3-{2-[(4-methylpyridin-3-yl)amino]ethyl}piperidine-3-carboxylate trihydrochloride (42.8 mg, 0.000107 mol), 2-chloro-5-(trifluoromethyl)pyridine (23 mg, 0.00013 mol) and N,N-diisopropylethylamine (0.056 mL, 0.00032 mol) in N-methylpyrrolidinone (0.8 mL, 0.008 mol) was irradiated with microwaves to 180° C. for 20 min. Sodium hydride (30.0 mg) was then added to the above solution and the mixture was stirred overnight. The product was purified by prep-HPLC. LC-MS: 391.2 (M+H)+.

reactant | ethyl 3-{2-[(4-methylpyridin-3-yl)amino]ethyl}piperidine-3-carboxylate trihydrochloride | 0.000107 mol, 42.8 mg | Cl.Cl.Cl.CC1=C(C=NC=C1)NCCC1(CNCCC1)C(=O)OCC
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 0.00013 mol, 23 mg | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | N,N-diisopropylethylamine | 0.00032 mol, 0.056 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-methylpyrrolidinone | 0.008 mol, 0.8 mL | CN1C(CCC1)=O | C5H9NO
reactant | Sodium hydride | 30.0 mg | [H-].[Na+]
product | 2-(4-methylpyridin-3-yl)-7-[5-(trifluoromethyl)pyridin-2-yl]-2,7-diazaspiro[4.5]decan-1-one | CC1=C(C=NC=C1)N1C(C2(CC1)CN(CCC2)C2=NC=C(C=C2)C(F)(F)F)=O | C20H21F3N4O
